US06255496B1
(2S, 4R)-1-N-Dodecyl-4-hydroxypyrrolidine-2-carboxylic acid, methyl ester
A solution of trans-4-hydroxy-L-proline, methyl ester, hydrochloride (4.0 g, 22.02 mmol) and 1-iodododecane (3.04 g, 44.04 mmol) in methanol (30 ml) was treated with potassium carbonate. The mixture was stirred and refluxed for 7 h, cooled to r.t., diluted with ethyl acetate (700 ml), washed with water (400 ml), brine (200 ml), dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel (petroleum ether/ethyl acetate 60:40 to 40:60) to afford the title compound (3.72 g, 54%) as a white solid.

reactant | trans-4-hydroxy-L-proline, methyl ester, hydrochloride | 22.02 mmol, 4.0 g | Cl.O[C@@H]1C[C@H](NC1)C(=O)OC
reactant | 1-iodododecane | 44.04 mmol, 3.04 g | ICCCCCCCCCCCC | C12H25I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 30 ml | CO | CH4O
solvent | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
product | (2S, 4R)-1-N-Dodecyl-4-hydroxypyrrolidine-2-carboxylic acid, methyl ester | 3.72 g, 54% | C(CCCCCCCCCCC)N1[C@@H](C[C@H](C1)O)C(=O)OC | C18H35NO3
